US06831193B2
N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]-N-{3-[(trifluoromethyl)sulfanyl]benzyl}amine
3-[(Trifluoromethyl)sulfanyl]benzaldehyde and (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine were processed as described in Example 1A to provide the title compound.

reactant | 3-[(Trifluoromethyl)sulfanyl]benzaldehyde | FC(F)(F)SC=1C=C(C=O)C=CC1 | C8H5F3OS
reactant | (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine | [C@@H]1(CCCC2=CC=CC=C12)N | C10H13N
product | N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]-N-{3-[(trifluoromethyl)sulfanyl]benzyl}amine | [C@@H]1(CCCC2=CC=CC=C12)NCC1=CC(=CC=C1)SC(F)(F)F | C18H18F3NS
